US06693123B2
N-[4-(2-Pyrid-3-ylethyn-1-yl)-2-(2-methylphenyl)benzoyl]methionine
Methyl N-[4-(2-pyrid-3-ylethyn-1-yl)-2-(2-methylphenyl)benzoyl]methionine (43 mg, 0.09 mmol) was dissolved in MeOH (2 mL) and treated with excess 1 M LiOH. After 18 h at room temperature, the reaction was evaporated, and partitioned between ether and water. The aqueous layer was acidified with 1 M HCl and extracted with EtOAc. The combined extracts were washed with water and brine, dried over Na2SO4, and evaporated to provide 35 mg of the title compound. MS m/e 445 (M+H)+. 1H NMR (CDCl3, 300 MHz) 1.62 (m, 1H), 1.96 (m, 1H), 2.1 (m, 8H), 4.62 (m, 1H), 6.02 (m, 1H), 7.37 (m, 6H), 7.63 (m, 1H), 7.88 (m, 1H), 7.99 (m, 1H), 8.59 (m, 1H), 8.79 (m, 1H).

reactant | Methyl N-[4-(2-pyrid-3-ylethyn-1-yl)-2-(2-methylphenyl)benzoyl]methionine | 0.09 mmol, 43 mg | CN([C@@H](CCSC)C(=O)O)C(C1=C(C=C(C=C1)C#CC=1C=NC=CC1)C1=C(C=CC=C1)C)=O | C27H26N2O3S
reactant | LiOH | 1 M | [Li+].[OH-]
solvent | MeOH | 2 mL | CO | CH4O
product | N-[4-(2-Pyrid-3-ylethyn-1-yl)-2-(2-methylphenyl)benzoyl]methionine | 35 mg | N1=CC(=CC=C1)C#CC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)O)C=C1)C1=C(C=CC=C1)C | C26H24N2O3S
